US07456174B2
Step 1: 1-Cyclopropylmethyl-piperidin-4-one
To a suspension of bromomethyl cyclopropane (4 mmol) and 4-piperidone hydrate hydrochloride (4 mmol) in acetonitrile (30 mL) was added sodium carbonate (11 mmol). The reaction mixture was stirred 16 h at 85° C. The resulting suspension was filtered and the solid was washed with acetonitrile. The filtrate was concentrated in vacuo and purified by column chromatography on silica eluting with DCM/2N NH3 in methanol 97:3 to yield 339 mg of the title compound as yellow oil. MS (m/e): 154.2 (MH+, 100%).

reactant | bromomethyl cyclopropane | 4 mmol | BrCC1CC1 | C4H7Br
reactant | 4-piperidone hydrate hydrochloride | 4 mmol | Cl.O.N1CCC(CC1)=O
reactant | sodium carbonate | 11 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-Cyclopropylmethyl-piperidin-4-one | 339 mg | C1(CC1)CN1CCC(CC1)=O | C9H15NO
